US07655670B2
1-(methylcarbonyloxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one (Compound #53)
1-(tetrahydropyran-2-yl-oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one (0.021 g, 0.05 mmol) was dissolved in methanol (2 mL). To the reaction mixture was then added at room temperature aqueous 1.0N HCl (80 μL) and the reaction mixture was stirred for 30 minutes. The reaction mixture was then partitioned with aqueous Na2CO3 and ethyl acetate. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a solid. The solid was then dissolved in dry dichloromethane (2 mL). To the reaction mixture was then added at 0° C. triethylamine (0.12 g, 0.12 mmol) and acetic anhydride (0.02 g, 0.2 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for 30 minutes and 18 hrs at room temperature. The reaction mixture was then partitioned with aqueous Na2CO3 and dichloromethane. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield the title compound as a gum.

reactant | 1-(tetrahydropyran-2-yl-oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one | 0.05 mmol, 0.021 g | O1C(CCCC1)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)OC(C)(C)C)=O | C24H34N2O5
reactant | HCl | 1.0N, 80 μL | Cl | ClH
reactant | triethylamine | 0.12 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.2 mmol, 0.02 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 2 mL | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(methylcarbonyloxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one | CC(=O)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)OC(C)(C)C)=O | C21H28N2O5
